US06015829
To an aqueous solution (150 ml) of 3-cyano-4-methoxyaniline hydrochloride (72 g) were added sodium nitrite (29.7 g), stannous chloride dihydrate (266 g) and con. hydrochloric acid (437 ml) with stirring under ice-cooling. After the completion of the reaction, precipitated crystals were collected by filtration. The crystals were added to water, and the mixture was neutralized with aqueous sodium hydroxide solution, extracted with a mixed solvent of toluene and tert-butanol, washed with water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 44 g of 3-cyano-4-methoxyphenylhydrazine.

reactant | sodium nitrite | 29.7 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 437 ml | Cl | ClH
reactant | 3-cyano-4-methoxyaniline hydrochloride | 150 ml, 72 g | Cl.C(#N)C=1C=C(N)C=CC1OC
product | 3-cyano-4-methoxyphenylhydrazine | 44 g | C(#N)C=1C=C(C=CC1OC)NN | C8H9N3O
